US07041687B2
4-Amino-2-(3-chloro-2,6-difluorophenyl)-butyric acid methyl ester hydrochloride:
To a solution of 2-(3-Chloro-2,6-difluorophenyl)-3-cyanopropionic acid methyl ester (784 mg, 3.0 mmol) and concentrated hydrochloric acid (0.63 mL, 7.55 mmol) in MeOH (5 mL) was added platinum dioxide (69 mg, 0.3 mmol) under nitrogen. The reaction mixture was degassed (5× vacuum cycles) and the nitrogen atmosphere replaced with hydrogen (5× vacuum cycles). The mixture was stirred for 3.5 hours, then filtered through a pad of Celite®, washing with MeOH. The filtrate was concentrated and used in the next step without further purification.

reactant | 2-(3-Chloro-2,6-difluorophenyl)-3-cyanopropionic acid methyl ester | 3.0 mmol, 784 mg | COC(C(CC#N)C1=C(C(=CC=C1F)Cl)F)=O | C11H8ClF2NO2
reactant | hydrochloric acid | 7.55 mmol, 0.63 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
catalyst | platinum dioxide | 0.3 mmol, 69 mg | [Pt](=O)=O
product | 4-Amino-2-(3-chloro-2,6-difluorophenyl)-butyric acid methyl ester hydrochloride | Cl.COC(C(CCN)C1=C(C(=CC=C1F)Cl)F)=O | InChI=1S/C11H12ClF2NO2.ClH/c1-17-11(16)6(4-5-15)9-8(13)3-2-7(12)10(9)14;/h2-3,6H,4-5,15H2,1H3;1H
